US03971791
Upon boiling a solution of 12.2 g of 2-cyanobenzylideneacetoacetic acid ethyl ester and 7.2 g of amidinoacetic acid isopropyl ester in 200 ml of ethanol for 1 hour, 2-amino-6-methyl-4-(2-cyanophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-isopropyl ester 5-ethyl ester of melting point 200°C (isopropanol) is obtained. Yield: 58% of theory.

reactant | 2-cyanobenzylideneacetoacetic acid ethyl ester | 12.2 g | C(C)OC(CC(=O)C=CC1=C(C=CC=C1)C#N)=O | C14H13NO3
reactant | amidinoacetic acid isopropyl ester | 7.2 g | C(C)(C)OC(CC(N)=N)=O | C6H12N2O2
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 2-amino-6-methyl-4-(2-cyanophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-isopropyl ester 5-ethyl ester | Yield: 58% | C(C)OC(=O)C=1C(C(=C(NC1C)N)C(=O)OC(C)C)C1=C(C=CC=C1)C#N | C20H23N3O4
